US05463077
100 cm3 of a 5.2N solution of hydrogen chloride in dioxane are added to a solution of 7.63 g of (3aS, 4S, 7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-tert-butoxycarbonyl-perhydroisoindol-4-ol in 66 cm3 of dioxane at room temperature. The reaction mixture is stirred at this temperature for 1 hour and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is washed with acetonitrile, filtered off and then dried. 4.88 g of (3aS,4S,7aS)-7,7-diphenyl-4-(2 -methoxyphenyl)-perhydroisoindol-4-ol hydrochloride are obtained in the form of white crystals which melt at 271° C. (Maquenne block).

reactant | hydrogen chloride | Cl | ClH
reactant | (3aS, 4S, 7aS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-tert-butoxycarbonyl-perhydroisoindol-4-ol | 7.63 g | C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CN(C[C@H]12)C(=O)OC(C)(C)C)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C32H37NO4
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 66 cm3 | O1CCOCC1 | C4H8O2
product | (3aS,4S,7aS)-7,7-diphenyl-4-(2 -methoxyphenyl)-perhydroisoindol-4-ol hydrochloride | 4.88 g | Cl.C1(=CC=CC=C1)C1(CC[C@@]([C@@H]2CNC[C@H]12)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | InChI=1S/C27H29NO2.ClH/c1-30-25-15-9-8-14-22(25)27(29)17-16-26(20-10-4-2-5-11-20,21-12-6-3-7-13-21)23-18-28-19-24(23)27;/h2-15,23-24,28-29H,16-19H2,1H3;1H/t23-,24+,27+;/m0./s1
